US07855227B2
Step B [2-(3-Hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester
1 g of Pd/C 10% was added to a solution of 13 g (0.039 mol) of [2-(3-benzyloxy-phenyl)ethyl]-carbamic acid tert-butyl ester in 100 ml of ethanol. The mixture was hydrogenated at 40 psi overnight. The catalyst was filtered off and washed with ethanol. The solvent was removed under vacuum and 9.4 g of the title compound were obtained as a colourless oil in quantitative yield.

reactant | [2-(3-benzyloxy-phenyl)ethyl]-carbamic acid tert-butyl ester | 0.039 mol, 13 g | C(C)(C)(C)OC(NCCC1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C20H25NO3
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | [2-(3-Hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 9.4 g, quantitative yield | C(C)(C)(C)OC(NCCC1=CC(=CC=C1)O)=O | C13H19NO3
